US04178463
To a solution of 18.4 g (2 equivalents) in 300 ml of anhydrous ethanol is added rapidly 164 g (1 equivalent) of diethyl malonate. 1,4-Dichloro-2-butene (98% mixture of cis and trans, Aldrich) (50 g, 1 equivalent) is slowly added to the warm, stirred suspension of the diethyl sodio malonate during 15 minutes after which the mixture is refluxed for 3 hours. Upon cooling, the mixture is poured into 1.2 liters of water and an oil isolated by ether extraction. The ether extract is dried over magnesium sulfate and distilled to give 1,1-bis-ethoxy-carbonyl-2-vinylcyclopropane, B.P. 108°-116° C./14 mm.

reactant | diethyl malonate | 164 g, 1 equivalent | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1,4-Dichloro-2-butene | 50 g, 1 equivalent | ClCC=CCCl | C4H6Cl2
reactant | water | 1.2 liters | O | H2O
reactant | ether | CCOCC | C4H10O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 1,1-bis-ethoxy-carbonyl-2-vinylcyclopropane | C(C)OC1(C(C1=C=O)C=C)OCC | C10H14O3
